US04241058
35 g of 3-(p-tert.butyl-phenyl)-2-methyl-allyl bromide in 70 ml of ether are added dropwise to a solution of 24.5 g of piperidine in 100 ml of absolute ether and the mixture is heated at reflux for 16 hours. The piperidine hydrobromide is removed by filtration and rinsed with ether. The ether solution is extracted with 2-N hydrochloric acid and made alkaline with 50% sodium hydroxide. The alkaline-aqueous solution is again extracted with ether, washed with water, dried over sodium sulphate and evaporated. By distillation there is obtained pure 1-[3-(p-tert.butyl-phenyl)-2-methyl-2-propenyl]-piperidine of boiling point 96°-98° C./0.03 Torr.

reactant | 3-(p-tert.butyl-phenyl)-2-methyl-allyl bromide | 35 g | C(C)(C)(C)C1=CC=C(C=C1)C=C(CBr)C | C14H19Br
reactant | piperidine | 24.5 g | N1CCCCC1 | C5H11N
solvent | ether | 70 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-[3-(p-tert.butyl-phenyl)-2-methyl-2-propenyl]-piperidine | C(C)(C)(C)C1=CC=C(C=C1)C=C(CN1CCCCC1)C | C19H29N
